US06121308
2-[N-(4-Amidinophenyl)-aminomethyl]-3-methyl-6-[N-(hydroxycarbonylmethyl)-1,2,3,4-tetrahydro-quinoline-8-sulphonylamino]-benzofuran
Prepared analogously to Example 3 from 2-[N-(4-amidinophenyl)-aminomethyl]-3-methyl-6-[N-(ethoxycarbonylmethyl)-1,2,3,4-tetrahydro-quinoline-8-sulphonylamino]-benzofuran and sodium hydroxide solution.

reactant | 2-[N-(4-amidinophenyl)-aminomethyl]-3-methyl-6-[N-(ethoxycarbonylmethyl)-1,2,3,4-tetrahydro-quinoline-8-sulphonylamino]-benzofuran | C(N)(=N)C1=CC=C(C=C1)NCC=1OC2=C(C1C)C=CC(=C2)N(CC(=O)OCC)S(=O)(=O)C=2C=CC=C1CCCNC21 | C30H33N5O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-[N-(4-Amidinophenyl)-aminomethyl]-3-methyl-6-[N-(hydroxycarbonylmethyl)-1,2,3,4-tetrahydro-quinoline-8-sulphonylamino]-benzofuran | C(N)(=N)C1=CC=C(C=C1)NCC=1OC2=C(C1C)C=CC(=C2)N(CC(=O)O)S(=O)(=O)C=2C=CC=C1CCCNC21 | C28H29N5O5S
